US05030735
Preparation of Methyl 2-(p-chlorophenyl)-5-(trifluoro-methyl)pyrrole-3-carboxvlate
Triethylamine (5.58 g, 0.055 mol) is added dropwise to a mixture of 4-(p-chlorophenyl)-2-(tri-fluoromethyl)-5(2H)-oxazolone (15.6 g, 0.054 mol), methyl α-chloroacrylate (6.52. g, 0.054 mol) and acetonitrile (50 mL). The reaction mixture heats up to 55° C. during the addition. After the addition is complete, the reaction mixture is heated at reflux temperature for one hour, cooled to room temperature and filtered. The filtrate is poured into an ether/water mixture and extracted with ether. The combined organic extracts are dried over anhydrous magnesium sulfate and concentrated in vacuo to give a black residue. Recrystallization of the residue from hexane gives the title compound as an orange solid (8.25 g, 50.2%). Indentified by NMR spectral analyses.

reactant | Triethylamine | 0.055 mol, 5.58 g | C(C)N(CC)CC | C6H15N
reactant | 4-(p-chlorophenyl)-2-(tri-fluoromethyl)-5(2H)-oxazolone | 0.054 mol, 15.6 g | ClC1=CC=C(C=C1)C1=NC(OC1=O)C(F)(F)F | C10H5ClF3NO2
reactant | methyl α-chloroacrylate | 0.054 mol | ClC(C(=O)OC)=C | C4H5ClO2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | Methyl 2-(p-chlorophenyl)-5-(trifluoro-methyl)pyrrole-3-carboxvlate | 8.25 g, 50.2% | ClC1=CC=C(C=C1)C=1NC(=CC1C(=O)OC)C(F)(F)F | C13H9ClF3NO2
